US04806685
Preparation of (E)-1-[4-(2-aminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene
7.40 g (18 mmoles) of (E)-1-[4-(2-azidoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene, prepared as described in Example 7, are dissolved in 100 ml of methanol, 0.70 g of a 5% palladium-on-carbon catalyst are added, and the mixture is hydrogenated for about one hour. The catalyst is filtered off, the solution is evaporated, and the residue is crystallized from hexane. 3.63 g (52.3%) of the aimed compound are obtained; m.p.: 71°-76° C.

reactant | (E)-1-[4-(2-azidoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 18 mmoles, 7.40 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18F3N3O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | (E)-1-[4-(2-aminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 3.63 g, 52.3% | NCCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H20F3NO
